US07994185B2
Step B: N-{3-[5-(2-Amino-4-pyrimidinyl)-2-(4-morpholinyl)-1,3-thiazol-4-yl]-2-fluorophenyl}-2-furansulfonamide
A suspension of N-{3-[5-(2-chloro-4-pyrimidinyl)-2-(4-morpholinyl)-1,3-thiazol-4-yl]-2-fluorophenyl}-2-furansulfonamide (150 mg, 0.287 mmol) and NH4OH (5 mL, 128 mmol) was heated in a microwave reactor at 120° C. for 40 min. LC-MS looks good for desired product. The reaction mixture was neutralized with 5N HCl and extracted with DCM×2. The crude mixture was evaporated onto silica gel and chromatographed (10-50% 1:9 MeOH:EtOAc in DCM). The title compound was obtained as a yellow solid after trituration in MeOH (102 mg, 68% yield). 1H NMR (400 MHz, DMSO-d6) δ ppm 10.57 (s, 1H), 7.78-7.94 (m, 2H), 7.34 (td, J=7.4, 2.0 Hz, 1H), 7.14-7.30 (m, 2H), 7.03 (d, J=3.5 Hz, 1H), 6.44-6.61 (m, 3H), 5.64 (d, J=5.3 Hz, 1H), 3.67 (t, J=4.7 Hz, 4H), 3.41 (t, J=4.6 Hz, 4H). MS (ESI): 502.2 [M−H]−.

reactant | N-{3-[5-(2-chloro-4-pyrimidinyl)-2-(4-morpholinyl)-1,3-thiazol-4-yl]-2-fluorophenyl}-2-furansulfonamide | 0.287 mmol, 150 mg | ClC1=NC=CC(=N1)C1=C(N=C(S1)N1CCOCC1)C=1C(=C(C=CC1)NS(=O)(=O)C=1OC=CC1)F | C21H17ClFN5O4S2
reactant | NH4OH | 128 mmol, 5 mL | [NH4+].[OH-]
product | N-{3-[5-(2-Amino-4-pyrimidinyl)-2-(4-morpholinyl)-1,3-thiazol-4-yl]-2-fluorophenyl}-2-furansulfonamide | NC1=NC=CC(=N1)C1=C(N=C(S1)N1CCOCC1)C=1C(=C(C=CC1)NS(=O)(=O)C=1OC=CC1)F | C21H19FN6O4S2
